* Z:\mnt\design.r\spice\examples\LT3950.asc
V1 IN 0 12
L1 IN N001 6.8µ
D1 N001 OUT PMEG6010AED
C1 OUT 0 4.7µ
C2 N005 0 1µ
R2 N010 0 49.9k
M1 N007 N006 N004 N004 Si7489DP
R3 OUT N004 0.75
XU1 OUT N004 N006 0 N003 N001 N002 N008 N005 IN 0 N010 IN N005 N005 0 LT3950
R4 OUT N002 1Meg
R5 0 N002 41.2k
R6 N009 N008 62k
C5 N009 0 270p
R7 N005 N003 100k
D2 N007 0 LXHL-BW02
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .8m startup
.lib LT3950.sub
.backanno
.end
